US07557114B2
(b) 5-Ethoxy-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-ethoxy-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. White solid. MS (m/e): 232.1 ([M+H]+, 100%).

reactant | 5-ethoxy-6-trifluoromethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)OCC)C(F)(F)F | C16H20F3NO3
reactant | hydrochloric acid | Cl | ClH
product | 5-Ethoxy-6-trifluoromethyl-2,3-dihydro-1H-isoindole hydrochloride | Cl.C(C)OC=1C=C2CNCC2=CC1C(F)(F)F | InChI=1S/C11H12F3NO.ClH/c1-2-16-10-4-8-6-15-5-7(8)3-9(10)11(12,13)14;/h3-4,15H,2,5-6H2,1H3;1H
